Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Malignant pleural effusion
 
Major Surgical or Invasive Procedure:
Right thoracoscopy with talc pleurodesis and placement of a 
pleural
catheter

 
History of Present Illness:
Mr. ___ is an ___ man with a history of pancreatic 
cancer, who recently presented to his oncologist with a 
malignant right pleural effusion. In the past 2 months he noted 
increasing dyspnea and had a thoracentesis with removal of 
1500cc of fluid with improvement on his breathing. Now with 
gradually increasing dyspnea and recent CT showed recurrence of 
the right sided effusion. He presents for surgical drainage of 
the recurrent effusion, pleurodesis, and the PleurX catheter 
placement.

 
Past Medical History:
1.  Coronary artery disease status post PCI ___.
2.  Atrial fibrillation.
3.  Hypertension.
4.  Hyperlipidemia.
5.  Type 2 diabetes mellitus.
6.  Chronic kidney disease, stage III.
7.  History of Lyme disease/anaplasmosis, ___.
8.  Osteoarthritis, status post left hip steroid injection.
9.  Cataracts.
 
Social History:
___
Family History:
Confirmed with pt on admission. 
The patient's mother lived to her ___.  He does
not know his father's history.  He has two sisters and four
children are without healthy concerns.  No family history of
malignancy.

 
Physical Exam:
Gen: NAD
HEENT: Supple
CV: Irreg Irreg
Resp: Clear. R Chest tube and pleur-X cath dressings D & I.
Abd:Soft, NT, ND
Ext: No CCE

 
Pertinent Results:
___ 08:34AM   ___ PTT-31.9 ___
___ 09:14AM   HGB-10.1* calcHCT-30
___ 09:14AM   K+-3.7
___ 09:14AM   freeCa-1.22
 
Brief Hospital Course:
The patient was taken to the operating room by the Thoracic 
Surgery Service for a right Right thoracoscopy with talc 
pleurodesis and PleurX catheter placement. There were no adverse 
events in the operating room; please see the operative note for 
details. Post-operatively the patient was taken to the PACU 
until stable SBP 170-180, down to 150-160's without 
intervention.  Post op Chest Xray ; small right apical 
pneumothorax, breathing comfortably with adequate saturation. 
Then transferred to floor until stable. 

 He remained hemodynamically stable and his pain was well 
controlled. His Chest tube pulled on POD2 , post pull CXR 
showed: stable size of loculated right pleural effusion with new 
air-fluid level seen on lateral projection suggesting new small 
right pneumothorax.  Slight interval improvement of loculated 
component along the right minor fissure. 

On the morning of POD2, the patient was tolerating a regular 
diet, was voiding independently and ambulating without issue, 
was breathing comfortably on room air, his incisions were all 
clean, and CT and pleur-x cath dressings dry and intact. He was 
discharged home and was instructed to restart his Coumadin 5 mg 
that evening and to continue with his low dose Aspirin as 
before.  He will have his  INR checked on ___ at ___ 
___ under the direction of Dr. ___ as before. He 
will follow up at ___ with Dr. ___ on ___ at ___  
with a repeat Chest X ray prior to appointment. Patient and wife 
expressed full understanding of the aferomentioned plan at the 
time of discharge and all questions were answered to 
satisfaction.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Glargine 15 Units Bedtime
4. Aspirin 81 mg PO DAILY 
5. GlipiZIDE XL 10 mg PO DAILY 
6. Vitamin D ___ UNIT PO 6X/WEEK (___) 
7. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN constipation if unrelieved by 
Milk of Magnesia 
RX *bisacodyl 5 mg ___ tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Drink plenty of water 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
4.  Warfarin 5 mg PO ONCE Atrial Fibrillation  Duration: 1 Dose 
Patient to take at home later today.  Do not dispense as 
inpatient  
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Atenolol 25 mg PO DAILY  
7.  GlipiZIDE XL 10 mg PO DAILY  
8.  Losartan Potassium 100 mg PO DAILY  
9.  Vitamin D ___ UNIT PO 6X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right malignant pleural effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. The Infectious 
Disease doctors ___ contact ___ at home if you need any further 
testing.

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage. Cover the area with a gauze pad if it is draining.

* Your chest tube dressing should be changed every other day. 
The ___ can help with that.  * You may need pain medication once 
you are home but you can wean it over the next week as the 
discomfort resolves. Make sure that you have regular bowel 
movements while on narcotic pain medications as they are 
constipating which can cause more problems. Use a stool softener 
or gentle laxative to stay regular.

* No driving while taking narcotic pain medication.

* Take Tylenol ___ mg every 6 hours . 

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

ABOUT YOUR PLEUREX CATHETER 
A small catheter has been placed in your lungs to help drained 
fluid but it is capped now. Call ___ with sudden shortness of 
breath- chest pain

• Wound dressings by ___ Nurse)
  You have a dressing around your chest tube. This can be 
changed after 48 hours and at least every other day as 
prescribed by your doctor.
Showering/Bathing:
Showering with a catheter is all right as long you don't 
submerge the tube in water. No baths, swimming, or hot tubs.
 
Followup Instructions:
___